US07807676B2
Part A: To a solution of N-Boc-isonipecotic acid (4.85 g, 21.2 mmol) in tetrahydrofuran (80 mL) at 25° C. was added carbonyl diimidazole (3.80 g, 23.3 mmol), and the reaction mixture was stirred for 1.00 h at 25° C. To the resulting mixture was added aniline (2.10 mL, 23.3 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene(DBU) (3.20 mL, 21.2 mmol), and the solution was stirred at 25° C. for another 90 h. The reaction mixture was diluted with water, 1.00 N hydrochloric acid (80 mL), and ethyl acetate. The phases were separated, and the organic phase was washed with water (×2) and brine, dried over anhyd. sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 0-20% diethyl ether/methylene chloride) furnished tert-butyl 4-(phenylcarbamoyl)-piperidine-1-carboxylate (4.25 g) as a white solid; 1H NMR (300 MHz, CDCl3) δ 7.48 (d, 2H, J=8.0 Hz), 7.29 (t, 2H, J=8.0 Hz), 7.20 (br s, 1H), 7.08 (t, 1H, J=8.0 Hz), 4.16 (m, 2H), 2.75 (m, 2H), 2.35 (m, 1H), 1.89-1.61 (m, 4H), 1.43 (s, 9H).

reactant | N-Boc-isonipecotic acid | 21.2 mmol, 4.85 g | C(=O)(OC(C)(C)C)N1CCC(C(=O)O)CC1 | C11H19NO4
reactant | carbonyl diimidazole | 23.3 mmol, 3.80 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | aniline | 23.3 mmol, 2.10 mL | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hydrochloric acid | 1.00 N, 80 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(phenylcarbamoyl)-piperidine-1-carboxylate | 4.25 g | C1(=CC=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
